US08030337B2
6-Amino-7-hydroxyindan-1-one hydrobromide
4-Bromo-7-hydroxy-6-nitroindan-1-one (2.90 g, 10.66 mmol) was dissolved in methanol (53 mL), a 10% palladium-carbon powder (290 mg) was added, and the mixture was stirred at room temperature for 6 hr under a hydrogen atmosphere. The catalyst was filtered off using celite, and the filtrate was concentrated under reduced pressure to give the title compound (2.08 g, yield 80%).

reactant | 4-Bromo-7-hydroxy-6-nitroindan-1-one | 10.66 mmol, 2.90 g | BrC1=C2CCC(C2=C(C(=C1)[N+](=O)[O-])O)=O | C9H6BrNO4
solvent | methanol | 53 mL | CO | CH4O
catalyst | palladium-carbon | 290 mg | [C].[Pd]
product | 6-Amino-7-hydroxyindan-1-one hydrobromide | 2.08 g, yield 80% | Br.NC1=CC=C2CCC(C2=C1O)=O | InChI=1S/C9H9NO2.BrH/c10-6-3-1-5-2-4-7(11)8(5)9(6)12;/h1,3,12H,2,4,10H2;1H
